US06380430B1
A solution of 500 mg of “B” and 238 mg of 3-hydroxybenzonitrile in 10 ml of acetonitrile is treated with 652 mg of caesium carbonate and stirred at room temperature for 40 hours. After customary working up, the residue is chromatographed on a reversed-phase column using acetonitrile/water 65:35. 3′-(3-Cyanophenoxymethyl)biphenyl-3-carbonitrile (“C”), FAB 311, is obtained as a colourless solid.

reactant | 3-hydroxybenzonitrile | 238 mg | OC=1C=C(C#N)C=CC1 | C7H5NO
reactant | caesium carbonate | 652 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 3′-(3-Cyanophenoxymethyl)biphenyl-3-carbonitrile | C(#N)C=1C=C(OCC=2C=C(C=CC2)C2=CC(=CC=C2)C#N)C=CC1 | C21H14N2O
